US06525064B1
Methanesulfonyl chloride (4 eq) was added dropwise to a mixture of 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine (2.25 g, 8.11 mmol), triethylamine (10.2 mL, 73.0 mmol) and chloroform (225 mL). The solvent was removed under reduced pressure to provide an oil. The oil was dissolved in 10% sodium hydroxide (200 mL) then extracted with chloroform (3×300 mL). The combined extracts were dried over magnesium sulfate and then concentrated under reduced pressure to provide a clear oil. The oil was purified by column chromatography (silica gel eluting with 90/10 dichloromethane/methanol) to provide a white solid. This material was dried overnight under vacuum at 80° C. to provide 0.71 g of N-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}methanesulfonamide as a white solid, m.p. 173-175° C. Analysis: Calculated for C15H25N5O3S: % C, 50.69; % H, 7.09; % N, 19.70; Found: % C, 50.51; % H, 6.91; % N, 19.49.

reactant | Methanesulfonyl chloride | 4 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine | 8.11 mmol, 2.25 g | NCCCCN1C(=NC=2C(=NC=C(C21)C)N)COCC | C14H23N5O
reactant | triethylamine | 73.0 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
reactant | chloroform | 225 mL | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydroxide | 200 mL | [OH-].[Na+]
product | N-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}methanesulfonamide | 0.71 g | NC1=NC=C(C2=C1N=C(N2CCCCNS(=O)(=O)C)COCC)C | C15H25N5O3S
